US06482852B2
(b) 3-(1,3-Dithiolan-2-yl)-4-(trifluoromethansulfonyloxy)-N-acetyl-L-phenylalanine methyl ester
To 3-(1,3-dithiolan-2-yl)-N-acetyltyrosine methyl ester (0.50 g, 1.46 mmol) and triethylamine (0.22 mL, 1.61 mmol) in methylene chloride (10 mL) at 0° C. was added N-phenyltrifluoromethanesulfonimide (0.58 g, 1.61 mmol). The mixture was allowed to stir for five days then washed sequentially with 1 N NaOH, 1 N HCl, and brine. The organic layer was dried over magnesium sulfate and concentrated to a solid. The solid was recrystallized from ethyl acetate/hexane (0.61 g, 87%). m.p. 116-118° C.

reactant | 3-(1,3-dithiolan-2-yl)-N-acetyltyrosine methyl ester | 1.46 mmol, 0.50 g | COC([C@@H](NC(C)=O)CC1=CC(=C(C=C1)O)C1SCCS1)=O | C15H19NO4S2
reactant | triethylamine | 1.61 mmol, 0.22 mL | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 1.61 mmol, 0.58 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(1,3-Dithiolan-2-yl)-4-(trifluoromethansulfonyloxy)-N-acetyl-L-phenylalanine methyl ester | COC([C@@H](NC(C)=O)CC1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C1SCCS1)=O | C16H18F3NO6S3
